US04587236
A solution of 1.0 g of 17-acetoxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione in 10 ml of pyridine is stirred with 5 ml of acetic anhydride for one hour at 0° C. Then the mixture is poured on an ice water-sodium chloride solution; the precipitate is filtered off and purified by crystallization from acetone/hexane, thus isolating 810 mg of 17,21-diacetoxy-11β-hydroxy-6α-methyl-1,4-pregnadiene-3,20-dione, mp 216° C.

reactant | 17-acetoxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.0 g | C(C)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C24H32O6
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 17,21-diacetoxy-11β-hydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 810 mg | C(C)(=O)O[C@]1(C(COC(C)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C26H34O7
